US06903117B2
4-(2,6-Dimethylphenyl) piperazine (1 g, 5.23 mmol) in MeOH (10 ml) was cooled to 0° and 0.305 g (5.73 mmol) of acrilonitrile was added. The reaction was stirred overnight at room temperature and evaporated under vacuum affording 1 g of crude 3-[4-(2,6-dimethylphenyl)piperazin-1-yl]propionitrile as a waxy solid. This compound was dissolved in MeOH (60 ml), 2 ml 37% HCl and hydrogenated under pressure (40 psi) with 0.2 g of 10% Pd\C. The reaction was filtered and evaporated to dryness obtaining 1 g of the title compound, as a hydrochloride salt, that was used without further purification for the following reaction.

reactant | 4-(2,6-Dimethylphenyl) piperazine | 5.23 mmol, 1 g | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
reactant | acrilonitrile | 5.73 mmol, 0.305 g | C(C=C)#N | C3H3N
solvent | MeOH | 10 ml | CO | CH4O
product | 3-[4-(2,6-dimethylphenyl)piperazin-1-yl]propionitrile | 1 g | CC1=C(C(=CC=C1)C)N1CCN(CC1)CCC#N | C15H21N3
